data/oMe_Silver.jsonl
{"reaction_id": "NR-201_1-c2ccccc2_2-C","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(c2ccccc2))=CC(=O)C=C(C(C))","CS(=O)(=O)O"],"products_smiles": ["C(C)C1=CC(=O)CC1(c2ccccc2)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(c2ccccc2))=CC(=[OH+])C=CC(C)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(c2ccccc2))C(C))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(C))C(c2ccccc2))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C1=CC(=O)CC1(C(c2ccccc2))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
{"reaction_id": "NR-116_1-CC_2-C(F)(F)F_3-CCCC(C)C_4-C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(CC)C(C(F)(F)F)C(=O)OCCCC(C)C","N#[N+]C"],"products_smiles": ["C(=O)(OCCCC(C)C)C(=N[NH]C)C(F)(F)F"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OCCCC(C)C)C(F)(F)F)CC","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OCCCC(C)C)(C(=O)CC)(N=NC)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCCCC(C)C)(C(O)([O-])(CC))(N=NC)C(F)(F)F","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OCCCC(C)C)C(=N[N-]C)C(F)(F)F","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OCCCC(C)C)C(=N[NH]C)C(F)(F)F","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NR-212_1-CC_2-N(C)C_3-F_4-C#N_5-C(F)(F)F_6-CC","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(CC)(N(C)C)=C(F)(C#N)","O=C(C(F)(F)F)(CC)"],"products_smiles": ["C1(CC)(N(C)C)C(C(F)(F)F)(CC)OC1(F)(C#N)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(CC)(N(C)C)C(C(F)(F)F)(CC)OC1(F)(C#N)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
